US04760158
A solution of di-tert-butyldicarbonate (4.36 g) in CH2Cl2 (10 ml) was added dropwise to a stirred solution of 4-cyanopiperidine (2.42 g) in CH2Cl2 (50 ml). After 2 hours the solvent was evaporated under reduced pressure and the residual oil dissolved in ethyl acetate (50 ml). The solution was cooled to 0°, washed rapidly with an ice-cold solution of KHSO4 (0.136 g) in water (100 ml), washed with saturated aq. NaHSO4 (50 ml), dried (MgSO4), and evaporated under reduced pressure to give 1-tert-butyloxycarbonyl-4-cyanopiperidine (4.02 g), m.p. 48°-50°.

reactant | di-tert-butyldicarbonate | 4.36 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-cyanopiperidine | 2.42 g | C(#N)C1CCNCC1 | C6H10N2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-tert-butyloxycarbonyl-4-cyanopiperidine | 4.02 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C#N | C11H18N2O2
